US04906621
A solution of 7.9 g of ethyl 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)-piperidine-2-carboxylate and 9.9 g of pyridinium chlorochromate in 175 ml of methylene chloride is stirred at room temperature for 3 hours. The mixture is filtered and purified by flash chromatography using ethyl acetate/hexane (25:75) to yield 1-(tert-butoxycarbonyl)-2-ethoxycarbonylpiperidine-4-carboxaldehyde.

reactant | ethyl 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)-piperidine-2-carboxylate | 7.9 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)CO)C(=O)OCC | C14H25NO5
reactant | pyridinium chlorochromate | 9.9 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | 1-(tert-butoxycarbonyl)-2-ethoxycarbonylpiperidine-4-carboxaldehyde | C(C)(C)(C)OC(=O)N1C(CC(CC1)C=O)C(=O)OCC | C14H23NO5
